US05192357
Potassium carbonate (25 g) was added to a stirred solution of o-tolylacetic acid (7.5 g) in acetonitrile (125 ml). The mixture was stirred for ten minutes at room temperature. Ethyl chloroacetate (6.13 g) was added and the mixture heated at reflux overnight. It was then poured into water, acidified with concentrated hydrochloric acid to pH2 and extracted with ethyl acetate. The extract was washed with brine, dried and evaporated, and purified by column chromatography to give ethoxycarbonylmethyl o-tolylacetate. Potassium carbonate (15 g) was added to a stirred solution of this product (10 g) in dimethylformamide (100 ml). The mixture was stirred at room temperature for 72 hours and then heated at reflux overnight. The mixture was cooled to 0° C. and potassium carbonate (5 g) added, followed by methyl iodide (2.65 ml). The mixture was stirred at room temperature for 24 hours. The mixture was poured into water, extracted with ether and the extract washed with brine, dried and evaporated to give 3-(2-methylphenyl)-4-methoxyfuran-2(5 H)-one, as a gum. This was then treated with N-bromosuccinimide followed by reaction with 2-mercaptobenzothiazole, in a similar manner to that described in Example 1, to give 3-[2-[[(2-benzothiazolyl)-thio]methyl]phenyl]-4-methoxyfuran-2(5H)-one, m.p. 81°-82°. (Compound 2).

reactant | Potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | o-tolylacetic acid | 7.5 g | C1(=C(C=CC=C1)CC(=O)O)C | C9H10O2
reactant | Ethyl chloroacetate | 6.13 g | ClCC(=O)OCC | C4H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | ethoxycarbonylmethyl o-tolylacetate | C1(=C(C=CC=C1)CC(=O)OCC(=O)OCC)C | C13H16O4
